US06599902B2
Synthesis of 5-(2,6-Difluoro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-((R)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
To a mixture of 5-[5-(2,6-difluoro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (138 mg, 0.33 mmol), EDAC (97 mg, 0.51 mmol) and HOBt (67 mg, 0.5 mmol) in DMF (4 mL) was added (R)-2-pyrrolidin-1-ylmethyl-pyrrolidine (106 mg, 0.68 mmol) and TEA (0.1 mL). The mixture was stirred at rt for 20 hours. The reaction was diluted with water and NaHCO3, extracted with DCM. The combined DCM was concentrated and the residue was purified on a silica gel column to give the titled compound.

reactant | 5-[5-(2,6-difluoro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.33 mmol, 138 mg | FC1=C(C(=CC=C1)F)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18F2N2O5S
reactant | EDAC | 0.51 mmol, 97 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.5 mmol, 67 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-2-pyrrolidin-1-ylmethyl-pyrrolidine | 0.68 mmol, 106 mg | N1(CCCC1)C[C@@H]1NCCC1 | C9H18N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 5-(2,6-Difluoro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-((R)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | FC1=C(C(=CC=C1)F)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1[C@H](CCC1)CN1CCCC1)C | C32H34F2N4O4S
